US05053509
4-Chloro-6,7,8-trifluorocarbostyril (60.83 g), suspended in acetic acid (520 cc) and triethylamine (38.15 cc), is hydrogenated under a pressure of 1 atmosphere at a temperature in the region of 25° C. in the presence of palladium on charcoal (5.25 g; 10% Pd) until the absorption of hydrogen is complete. The reaction mixture is then heated to approximately 40° C. and filtered at the same temperature through diatomaceous silica for filtration. The filtrate is concentrated under reduced pressure (20 kPa) at a temperature in the region of 50° C. The dry extract is taken up with water (400 cc); the insoluble matter is drained and washed with water (4×170 cc), ethanol (2×110 cc) and isopropyl ether (2×100 cc). 6,7,8-Trifluorocarbostyril (48.35 g) is obtained in the form of a colorless solid, subliming at 288° C., which is used without further purification for the subsequent steps.

reactant | 4-Chloro-6,7,8-trifluorocarbostyril | 60.83 g | ClC1=CC(NC2=C(C(=C(C=C12)F)F)F)=O | C9H3ClF3NO
solvent | acetic acid | 520 cc | C(C)(=O)O | C2H4O2
product | 6,7,8-Trifluorocarbostyril | 48.35 g | FC=1C=C2C=CC(NC2=C(C1F)F)=O | C9H4F3NO
